US06509328B1
8-Iodo-4-thiophen-2-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from (2-amino-4-iodo-phenyl)-carbamic acid tert.-butyl ester (Example G1) and 2,2-dimethyl-6-thiophen-2-yl-[1,3]dioxin-4-one (Example J1) according to the general procedure K. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (30 mg).

reactant | (2-amino-4-iodo-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)I)N)=O | C11H15IN2O2
reactant | 2,2-dimethyl-6-thiophen-2-yl-[1,3]dioxin-4-one | CC1(OC(=CC(O1)=O)C=1SC=CC1)C | C10H10O3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Iodo-4-thiophen-2-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 30 mg | IC=1C=CC2=C(NC(CC(=N2)C=2SC=CC2)=O)C1 | C13H9IN2OS
